US07781463B2
2-Ethyl-4-phenethyl-1,2,4-thiadiazolidine-3,5-dione (Compound 41)
Reagents: phenethyl isothiocyanate (0.97 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), ethyl isocyanate (0.51 ml, 6.5 mmol).

reactant | phenethyl isothiocyanate | 6.5 mmol, 0.97 ml | C(CC1=CC=CC=C1)N=C=S | C9H9NS
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | ethyl isocyanate | 6.5 mmol, 0.51 ml | C(C)N=C=O | C3H5NO
product | 2-Ethyl-4-phenethyl-1,2,4-thiadiazolidine-3,5-dione | C(C)N1SC(N(C1=O)CCC1=CC=CC=C1)=O | C12H14N2O2S
